US07754737B2
A tube designed for a microwave reactor was charged with 1-methanesulfonyl-3-((3-methoxypropoxy)(2-bromophenyl)methyl)piperidine (200 mg, 0.0.476 mmol, 1.0 equiv), PdCl2(dppf) (21 mg, 0.0.238 mmol, 0.05 equiv), Cs2CO3 (511 mg, 1.57 mmol, 3.3 equiv), phenylboronic acid (87 mg, 0.714 mmol, 1.5 equiv) and 4 mL of 1,4-dioxane. The tube was sealed and the resulting yellow solution degassed by three evacuates/N2 backfill cycles, then placed in a microwave reactor and heated to 120° C. for 15 min. The contents were transferred to a flask and volatile materials removed in vacuo. The residue was partitioned between CH2Cl2 and water. The yellow organic layer was washed with brine, dried over Na2SO4 and evaporated. The product was purified by flash chromatography on 4 g silica, eluting with 0 to 50% EtOAc in hexanes. 3-(Biphenyl-2-yl(3-methoxypropoxy)methyl)-1-(methylsulfonyl)piperidine was isolated as an off white solid (82 mg, 91%). 1H NMR (CDCl3) δ 0.8-1.8 (m, 8H), 2.25-2.5 (m, 4H), 2.85 (s, 3H), 3.25-3.55 (m, 4H), 3.25 (s, 3H), 3.55 and 3.62 (bd, 1H), 4.08 and 4.13 (d, 1H), 7.07-7.56 (m, 9H).

reactant | 1-methanesulfonyl-3-((3-methoxypropoxy)(2-bromophenyl)methyl)piperidine | 200 mg, 1.0 equiv | CS(=O)(=O)N1CC(CCC1)C(C1=C(C=CC=C1)Br)OCCCOC | C17H26BrNO4S
reactant | Cs2CO3 | 1.57 mmol, 511 mg, 3.3 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | phenylboronic acid | 0.714 mmol, 87 mg, 1.5 equiv | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | PdCl2(dppf) | 21 mg, 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-(Biphenyl-2-yl(3-methoxypropoxy)methyl)-1-(methylsulfonyl)piperidine | C1(=C(C=CC=C1)C(C1CN(CCC1)S(=O)(=O)C)OCCCOC)C1=CC=CC=C1 | C23H31NO4S
